US08710245B2
(a) Synthesis of 2-(4-bromothiophen-2-yl)ethanol
To a solution of 2,4-dibromothiophene (1 g, 4.13 mmol) in anhydrous ether was added n-BuLi (1.66 mL, 4.13 mmol) at −78° C. dropwise. After stirring at −78° C. for 0.5 hr, oxirane (0.32 mL, 19.28 mmol/mL in ether) was added to the reaction mixture quickly. After stirring at 0° C. for 1.5 hr, the reaction mixture was quenched with aqueous NH4Cl solution, extracted with EtOAc, concentrated and purified to give the desired product.

reactant | 2,4-dibromothiophene | 4.13 mmol, 1 g | BrC=1SC=C(C1)Br | C4H2Br2S
reactant | n-BuLi | 4.13 mmol, 1.66 mL | [Li]CCCC
reactant | oxirane | 19.28 mmol/mL, 0.32 mL | O1CC1 | C2H4O
solvent | ether | CCOCC | C4H10O
product | 2-(4-bromothiophen-2-yl)ethanol | BrC=1C=C(SC1)CCO | C6H7BrOS
